US04053601
A mixture of 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid, chloranil, and n-butanol, was heated under reflux to give 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,6-dihydro-6-oxo-3-pyridazinyl)benzoic acid.

reactant | 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)O)C=C1)C1=NNC(CC1)=O)O | C18H25N3O5
reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,6-dihydro-6-oxo-3-pyridazinyl)benzoic acid | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)O)C=C1)C1=NNC(C=C1)=O)O | C18H23N3O5
